US05710319
A solution of benzyl isocyanate (13.3 g, 0.10 mol) in xylene (40 ml) is metered, at room temperature, into a solution of methyl anthranilate (15.1 g, 0.10 mol) in xylene (80 ml). After the addition has ended, the batch is stirred at 110° C. for 2 hours. 1.80 ml of a 30% solution of methanolic sodium methylate (0.010 ml) are metered in, and the mixture is stirred at 90° C. for a further 2 hours, during which process methanol is distilled off. 0.9 ml of 85% formic acid (0.020 mol) is subsequently added and the mixture is stirred at 90° C. for a further hour. After cooling, the product is filtered off with suction, washed with 3×25 ml of xylene, 3×25 ml of ethanol and 3×25 ml of water, and dried. 22.2 g of 3-(benzyl)-2,4(1H,3H)-quinazolinedione (yield: 88.0% of theory) of melting point 231° to 232° C. (lit. 227° to 228° C.) are obtained.

reactant | benzyl isocyanate | 0.10 mol, 13.3 g | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | methyl anthranilate | 0.10 mol, 15.1 g | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | sodium methylate | 0.010 ml | C[O-].[Na+]
reactant | formic acid | 0.020 mol, 0.9 ml | C(=O)O | CH2O2
solvent | xylene | 40 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 80 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | methanol | CO | CH4O
product | 3-(benzyl)-2,4(1H,3H)-quinazolinedione | 22.2 g, yield: 88.0% | C(C1=CC=CC=C1)N1C(NC2=CC=CC=C2C1=O)=O | C15H12N2O2
